US07241887B2
N-{3-[8-Hydroxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-8-yl]-phenyl}-methanesulfonamide
8-(3-Amino-phenyl)-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]octan-8-ol (2.11 g, 6.23 mmol) in pyridine (15 mL) at 0° C. was charged with methanesulfonylchloride (0.72 mL, 9.35 mmol) dropwise. The reaction was warmed to room temperature and judged complete by TLC after 3 h. Following a water addition (20 mL), the product was extracted with EtOAc (4×30 mL), the organic layer was washed with saturated aqueous NaCl solution (6×50 mL), dried over Na2SO4, filtered and concentrated to give a crude orange liquid. Flash chromatography provided the title compound as a yellow semi-solid (1.28 g, 49%). (TLC 50% EtOAc/Hexanes Rf 0.24); 400 MHz 1H NMR (400 MHz, CDCl3) δ 7.30 (d, J=8.7 Hz, 2H), 7.27 (m, 3H), 7.14 (dd, J=7.1, 2.1 Hz, 1H), 6.83 (d, J=8.7 Hz, 2H), 3.77 (s, 3H), 3.53 (m, 2H), 2.96 (s, 3H), 2.82 (m, 2H), 2.60 (m, 2H), 2.36 (br s, 2H), 1.78 (m, 2H), 1.36 (m, 2H); APCI MS m/z 417.1 (M+1)+; LCMS m/z 417.1 (M+1)+.

reactant | 8-(3-Amino-phenyl)-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]octan-8-ol | 6.23 mmol, 2.11 g | NC=1C=C(C=CC1)C1(C2CN(CC1CC2)CC2=CC=C(C=C2)OC)O | C21H26N2O2
reactant | methanesulfonylchloride | 9.35 mmol, 0.72 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[8-Hydroxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]oct-8-yl]-phenyl}-methanesulfonamide | 1.28 g, 49% | OC1(C2CN(CC1CC2)CC2=CC=C(C=C2)OC)C=2C=C(C=CC2)NS(=O)(=O)C | C22H28N2O4S
